US06544985B2
(RS)-[5-Dimethylamino-2-(3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J6) (479 mg, 1.5 mmol) and (RS)-3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K17) (601 mg, 1.5 mmol) according to the general procedure M. Obtained as a pink amorphous substance (641 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.5 mmol, 479 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | (RS)-3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | 1.5 mmol, 601 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CC(=C1)COC1OCCCC1)=O)=O | C22H28N2O5
product | (RS)-[5-Dimethylamino-2-(3-oxo-3-{3-[4-(tetrahydro-pyran-2-yloxymethyl)-pyrazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CC(=C1)COC1OCCCC1)=O)=O)=O | C32H38F3N5O6
